US04070374
0.1 g palladium acetate and 0.24 g triphenylphosphine were dissolved in 20 ml dimethylacetamide and 10.6 g 4-acetoxybromobenzene, 5.4 g methyl vinyl carbinol and 5.0 g sodium bicarbonate added. The mixture was heated under nitrogen with stirring at 120° until 100% conversion of the arylbromide had occurred to give 4-(p-acetylphenyl)-2-butanone.

reactant | triphenylphosphine | 0.24 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl vinyl carbinol | 5.4 g | CC(O)C=C | C4H8O
reactant | sodium bicarbonate | 5.0 g | C([O-])(O)=O.[Na+]
reactant | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | 4-acetoxybromobenzene | 10.6 g | C(C)(=O)OC1=CC=C(C=C1)Br | C8H7BrO2
catalyst | palladium acetate | 0.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(p-acetylphenyl)-2-butanone | C(C)(=O)C1=CC=C(C=C1)CCC(C)=O | C12H14O2
